US05382585
A solution of 1.6 g (18 mmol) of morpholine in 20 ml of ethanol is added to a mixture of 3.0 g (18 mmol) of 7-methoxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide (Arzneim.-Forsch. 33 (1983) 803) and 100 ml of ethanol. After stirring at room temperature for 4 hours, the solvent is removed by distillation in vacuo and the residue is recrystallised from isopropanol. 3.6 g (90%) of 7-morpholino-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide are obtained.

reactant | morpholine | 18 mmol, 1.6 g | N1CCOCC1 | C4H9NO
reactant | 7-methoxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 18 mmol, 3.0 g | COC=1C=2C(N=CN1)=NO[N+]2[O-] | C5H4N4O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-morpholino-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 3.6 g, 90% | O1CCN(CC1)C=1C=2C(N=CN1)=NO[N+]2[O-] | C8H9N5O3
